US08133889B2
Step A: Ethyl 3-methylsulphanyl-2-oxo-2,3-dihydro-1H-indole-5-carboxylate
To a solution of ethyl 4-amino-benzoate (40.0 g) in DCM (900 ml) at −60° C. there is added, dropwise, ethyl (methylsulphanyl)acetate (34.5 ml) under a nitrogen atmosphere. 29.0 g of tBuOCl are then added, dropwise, to the reaction mixture over 25 minutes, maintaining the temperature between −60° C. and −55° C. After stirring for one hour at −50° C., triethylamine (15.4 ml) is added dropwise. The reaction mixture is brought to 0° C. and then aqueous 3M HCl solution (485 ml) is added dropwise. After stirring for 12 hours at ambient temperature, the phases are separated and the organic phase is washed successively with aq. 2M HCl solution, water and then sat. aqueous NaCl solution. The organic phase is dried over sodium sulphate, filtered and evaporated to dryness. The residue obtained is taken up in ether. The crystals obtained are filtered off, washed with ether and dried in vacuo to yield the title product, which is used directly in the next Step.

reactant | ethyl 4-amino-benzoate | 40.0 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | ethyl (methylsulphanyl)acetate | 34.5 ml | CSCC(=O)OCC | C5H10O2S
reactant | tBuOCl | 29.0 g | C(C)(C)(C)OCl | C4H9ClO
reactant | HCl | 3M, 485 ml | Cl | ClH
solvent | DCM | 900 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | 15.4 ml | C(C)N(CC)CC | C6H15N
product | Ethyl 3-methylsulphanyl-2-oxo-2,3-dihydro-1H-indole-5-carboxylate | CSC1C(NC2=CC=C(C=C12)C(=O)OCC)=O | C12H13NO3S
